US04372953
1-Methyl-5-(3-chloropropyl)thio-1,2,3,4-tetrazole (1.9 g) and 3-hydroxy-2-mercaptopyridine (1.3 g) are dissolved in acetone (50 ml). To the mixture are added potassium carbonate (1.4 g) and potassium iodide (0.1 g), and the mixture is refluxed for 5 hours. After acetone is distilled off, water is added to the residue, and the mixture is extracted with chloroform. The chloroform solution is washed with saturated aqueous sodium chloride and dried over magnesium sulfate. After chloroform is distilled off, the residue is purified by column chromatography (Kieselgel 60), followed by eluting with chloroform-methanol and recrystallizing from ethyl acetate-n-hexane to give 1-methyl-5-[3-(3-hydroxy-2-pyridyl)thiopropyl]thio-1,2,3,4-tetrazole (1.2 g) as pale yellow granules, m.p. 87.5°-88.5° C.

reactant | 1-Methyl-5-(3-chloropropyl)thio-1,2,3,4-tetrazole | 1.9 g | CN1N=NN=C1SCCCCl | C5H9ClN4S
reactant | 3-hydroxy-2-mercaptopyridine | 1.3 g | OC=1C(=NC=CC1)S | C5H5NOS
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.1 g | [I-].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 1-methyl-5-[3-(3-hydroxy-2-pyridyl)thiopropyl]thio-1,2,3,4-tetrazole | 1.2 g | CN1N=NN=C1SCCCSC1=NC=CC=C1O | C10H13N5OS2
